US07932284B2
Ethyl-3-iodo-6-nitro-1H-indole (R24)(R2=Et)
Add to a solution of 2-but-ynyl-5-nitro-phenylamine (2.98 g, 15.68 mmol) in anhydrous THF (100 mL) 2,6-di-t-butyl-4-methylpyridine followed by trifluoroacetic anhydride (2.7 mL, 19.61 mmol) and stir at room temperature for 18 hours. Quench the reaction with 1N HCl and add ethyl acetate. Extract the organic layer 2×1N HCl, 1× brine. Dry the organic layer over sodium sulfate, concentrate in vacuo, and redissolve in anhydrous acetonitrile (150 mL). Add to the solution potassium carbonate (6.49 g, 47.04 mmol) and cool to 0° C. Add iodine (11.94 g, 47.04 mmol) and stir at 0° C. for 30 min. Quench the reaction with 1M sodium thiosulfate (100 mL) and add water (250 mL). Stir the mixture 30 min., then filter and rinse with water to afford 3.94 g (80%) of the title compound.

reactant | 2-but-ynyl-5-nitro-phenylamine | 15.68 mmol, 2.98 g | C(#CCC)C1=C(C=C(C=C1)[N+](=O)[O-])N | C10H10N2O2
reactant | trifluoroacetic anhydride | 19.61 mmol, 2.7 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 47.04 mmol, 6.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | 47.04 mmol, 11.94 g | II | I2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 250 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl-3-iodo-6-nitro-1H-indole | 3.94 g, 80% | C(C)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])I | C10H9IN2O2
